US04376769
(B) 3-[(2-Amino-1-(4-fluorophenyl)ethyl)amino]-1-propanol
Prepare a suspension of lithium aluminum hydride in 1.0 liter of cold (-10° C.) ethyl ether with stirring. Add to the suspension a solution of 50 g of 4-fluoro-α-[(3-hydroxypropyl)amino]benzeneacetonitrile in 500 ml of ether and 100 ml of tetrahydrofuran under nitrogen. Stir the reaction mixture for five (5) hours at 0° C. then overnight at room temperature. Cool the reaction mixture to 0° C. and treat dropwise with 38 ml of water followed by 38 ml of 15% sodium hydroxide solution and 70 ml of water. Stir the reaction mixture for one-half hour, filter and concentrate to a solid. Extract the filter cake with methylene chloride several times and concentrate the filtrate to a residue. Crystallize the residues from isopropyl ether to obtain thereby the title product melting 110°-112° C.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-fluoro-α-[(3-hydroxypropyl)amino]benzeneacetonitrile | 50 g | FC1=CC=C(C=C1)C(C#N)NCCCO | C11H13FN2O
reactant | water | 38 ml | O | H2O
reactant | sodium hydroxide | 38 ml | [OH-].[Na+]
reactant | water | 70 ml | O | H2O
solvent | ether | 500 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ethyl ether | C(C)OCC | C4H10O
product | 3-[(2-Amino-1-(4-fluorophenyl)ethyl)amino]-1-propanol | NCC(C1=CC=C(C=C1)F)NCCCO | C11H17FN2O
